US09227978B2
2-(2′,5′,6-Trichloro-4-methoxy-[1,1′-biphenyl]-3-yl)ethanol
To a stirring solution of 2,2′,5′-trichloro-4-methoxy-5-vinyl-1,1′-biphenyl (310 mg, 1 mmol) in THF (15 mL) under nitrogen at room temperature, BH3 (2 mL, 1N) was added. After stirring for 8 h, a mixture of NaOH (160 mg, 4 mmol) in water (3 mL) and H2O2 (30% in H2O, 0.3 g, 4 mmol) was added and the resulting mixture was stirred for 6 h. The reaction was quenched with NaHCO3 aqueous solution and extracted with ethyl acetate. The organic layer was washed with brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (petroleum ether/ethyl acetate=4:1) to afford the desired product (180 mg, 54% yield) as a colorless oil.

reactant | 2,2′,5′-trichloro-4-methoxy-5-vinyl-1,1′-biphenyl | 1 mmol, 310 mg | ClC1=C(C=C(C(=C1)OC)C=C)C1=C(C=CC(=C1)Cl)Cl | C15H11Cl3O
reactant | NaOH | 4 mmol, 160 mg | [OH-].[Na+]
reactant | H2O2 | 4 mmol, 0.3 g | OO | H2O2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | water | 3 mL | O | H2O
product | 2-(2′,5′,6-Trichloro-4-methoxy-[1,1′-biphenyl]-3-yl)ethanol | 180 mg, 54% yield | ClC1=C(C=C(C=C1)Cl)C1=CC(=C(C=C1Cl)OC)CCO | C15H13Cl3O2
